US05654343
In 10 ml of THF was dissolved 300 mg of 3,4,4a,5,8,9,10,10a-octahydro-1,4a-dimethyl-7-(1-methylethyl)-5,8-dioxo-2-phenanthrenecarboxylic acid obtained by the same extraction procedure as in Example 16, followed by addition of 16 ml of an aqueous solution containing 1.6 g of sodium dithionite, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was diluted with water and extracted with diethyl ether. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated. The resulting crude product was purified by silica gel column chromatography (eluent=chloroform:methanol=100:1) to provide 290 mg of 3,4,4a,9,10,10a-hexahydro-5,8-dihydroxy-1,4a-dimethyl-7-(1-methylethyl)-2-phenanthrenecarboxylic acid.

reactant | 3,4,4a,5,8,9,10,10a-octahydro-1,4a-dimethyl-7-(1-methylethyl)-5,8-dioxo-2-phenanthrenecarboxylic acid | 300 mg | CC1=C(CCC2(C=3C(C=C(C(C3CCC12)=O)C(C)C)=O)C)C(=O)O | C20H24O4
reactant | sodium dithionite | 1.6 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3,4,4a,9,10,10a-hexahydro-5,8-dihydroxy-1,4a-dimethyl-7-(1-methylethyl)-2-phenanthrenecarboxylic acid | 290 mg | OC1=C2C3(CCC(=C(C3CCC2=C(C(=C1)C(C)C)O)C)C(=O)O)C | C20H26O4
